US05670505
A solution of di-tert-butyl dicarbonate (218 mg) in acetone (2 ml) was added dropwise to a stirred mixture of (3R)-1-benzyl-3-(1H-indol-3-yl-methyl)piperazine (305 mg) and triethylamine (150 mg) in a mixed solvent of acetone (3 ml) and water (3 ml) at ice-bath temperature. The resulting mixture was stirred at room temperature for 1 hour and evaporated under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic layer was separated, washed successively with dilute hydrochloric acid, aqueous sodium bicarbonate solution and brine, and dried over magnesium sulfate. After evaporation of the solvent in vacuo, the residue was dissolved in ethanol (10 ml) and then treated with ammonium formate (315 mg) in the presence of 10% Pd charcoal at 90° C. under nitrogen atmosphere. After stirring for 30 minutes, the reaction mixture was filtered and concentrated under reduced pressure to give (2R)-1-(tert-butoxycarbonyl)-2-(1H-indol-3-yl-methyl)piperazine (310 mg).

reactant | di-tert-butyl dicarbonate | 218 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (3R)-1-benzyl-3-(1H-indol-3-yl-methyl)piperazine | 305 mg | C(C1=CC=CC=C1)N1C[C@H](NCC1)CC1=CNC2=CC=CC=C12 | C20H23N3
reactant | triethylamine | 150 mg | C(C)N(CC)CC | C6H15N
reactant | water | 3 ml | O | H2O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | (2R)-1-(tert-butoxycarbonyl)-2-(1H-indol-3-yl-methyl)piperazine | 310 mg | C(C)(C)(C)OC(=O)N1[C@@H](CNCC1)CC1=CNC2=CC=CC=C12 | C18H25N3O2
